US04518713
1-{2-{N-{3-[2-(4-Fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}ethyl}-4-(4-chlorophenoxy)piperidine dihydrochloride
To a suspension of 4.68 g of lithium aluminum hydride (61.7 mmol, 50% in oil; washed 3 times with hexane) in 160 ml of THF was added dropwise a solution of 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]-propyl}-N-methylaminoacetyl}-4-(4-chlorophenoxy)piperidine (liberated from 34.7 g, 0.105 mol, of the oxalate) in 160 ml of dry THF. The mixture was stirred at reflux for 16 hours, allowed to cool to room temperature and subsequently cooled in an ice bath. To the mixture were added slowly, dropwise, 3 ml of water, 3 ml of 15% NaOH and 9 of ml water. The mixture was filtered and the residue washed with THF. Evaporation of the solvent provided an oil. The oil was washed with water, dried over potassium carbonate and the solvent evaporated to provide an oil. The yield of the dihydrochloride was 11.98 g (63%).

reactant | lithium aluminum hydride | 61.7 mmol, 4.68 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-{N-{3-[2-(4-fluorophenyl)-1,3-dioxolan-2-yl]-propyl}-N-methylaminoacetyl}-4-(4-chlorophenoxy)piperidine | FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CC(=O)N1CCC(CC1)OC1=CC=C(C=C1)Cl | C26H32ClFN2O4
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
reactant | NaOH | 3 ml | [OH-].[Na+]
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | THF | 160 ml | C1CCOC1 | C4H8O
solvent | THF | 160 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | water | 3 ml | O | H2O
product | 1-{2-{N-{3-[2-(4-Fluorophenyl)-1,3-dioxolan-2-yl]propyl}-N-methylamino}ethyl}-4-(4-chlorophenoxy)piperidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C1(OCCO1)CCCN(C)CCN1CCC(CC1)OC1=CC=C(C=C1)Cl | InChI=1S/C26H34ClFN2O3.2ClH/c1-29(14-2-13-26(31-19-20-32-26)21-3-7-23(28)8-4-21)17-18-30-15-11-25(12-16-30)33-24-9-5-22(27)6-10-24;;/h3-10,25H,2,11-20H2,1H3;2*1H
